US08865726B2
To a solution of dry EtOH (500 mL) was added sodium (22.1 g, 481 mmol) under a cold water bath. After complete dissolution, 1H-pyrazol-3-amine (40.0 g, 481 mmol) and 1,3-dimethylpyrimidine-2,4(1H,3H)-dione (101 g, 722 mmol) were added. The reaction mixture was heated at reflux for 4 hours. After cooling, the white solid was collected by filtration, washed with cold EtOH and dried under vacuum. The crude solid was suspended in minimum amount of water and the pH of the solution was adjusted to 5 by dropwise addition of acetic acid. The precipitated solid was collected by filtration, re-dissolved in MeOH and concentrated by rotary evaporation to azeotrope any remaining water to afford pyrazolo[1,5-a]pyrimidin-5-ol (34.3 g, 53%).

reactant | sodium | 481 mmol, 22.1 g | [Na] | Na
reactant | 1H-pyrazol-3-amine | 481 mmol, 40.0 g | N1N=C(C=C1)N | C3H5N3
reactant | 1,3-dimethylpyrimidine-2,4(1H,3H)-dione | 722 mmol, 101 g | CN1C(N(C(C=C1)=O)C)=O | C6H8N2O2
solvent | EtOH | 500 mL | CCO | C2H6O
product | pyrazolo[1,5-a]pyrimidin-5-ol | 34.3 g, 53% | N1=CC=C2N1C=CC(=N2)O | C6H5N3O
